US05599522
Acetic anhydride (AcO)2O (30 mL) was added to pyridine (35 mL). Tris(8-hydroxymethyl-2,2,6,6-tetramethylbenzo[1,2-d:4,5-d']-bis(1,3)dioxole-4-yl)methanol (0.400 g, 0.51 mmol (Example 33) was added under stirring, which was maintained at room temperature for two days. Pyridine and excess anhydride were evaporated (oil-pump) at 40°-50° C. to a syrup, which was taken up in 70 mL of CH2Cl2. The organic phase was washed with water (30 mL), 0.5M HCl (40 mL), water (50 mL) and NaHCO3 (saturated, 30 mL). The organic phase was separated, dried and the solvent was evaporated, leaving a syrup, which crystallized after standing for ca 1 h and the product tris(8-methylcarbonyloxymethyl-2,2,6,6-tetramethyl-benzo[1,2-d:4,5-d']-bis(1,3)dioxole-4-yl)methanol was isolated (0.460 g, 100%).

reactant | Tris(8-hydroxymethyl-2,2,6,6-tetramethylbenzo[1,2-d:4,5-d']-bis(1,3)dioxole-4-yl)methanol | OCC1=C2OC(OC2=C(C=2OC(OC21)(C)C)C(O)(C2=C1C(OC(O1)(C)C)=C(C1=C2OC(O1)(C)C)CO)C1=C2C(OC(O2)(C)C)=C(C2=C1OC(O2)(C)C)CO)(C)C | C40H46O16
solvent | pyridine | 35 mL | N1=CC=CC=C1 | C5H5N
product | tris(8-methylcarbonyloxymethyl-2,2,6,6-tetramethyl-benzo[1,2-d:4,5-d']-bis(1,3)dioxole-4-yl)methanol | CC(=O)OCC1=C2OC(OC2=C(C=2OC(OC21)(C)C)C(O)(C2=C1C(OC(O1)(C)C)=C(C1=C2OC(O1)(C)C)COC(=O)C)C1=C2C(OC(O2)(C)C)=C(C2=C1OC(O2)(C)C)COC(=O)C)(C)C | C46H52O19
